US08198453B2
To a solution of (R)-tert-butyl 3-((R)-(2-ethoxy-2-oxoethoxy)(3-fluorophenyl)methyl)piperidine-1-carboxylate (29.88 g, 75.9 mmol) in MeOH (300 mL) was added NaBH4 (23 g, 605.2 mmol) in portions while the temperature was lower than 40° C. After addition, the mixture was stirred at rt for 2-3 hr. The solvent was removed in vacuo to give a residue which was partitioned between water and EtOAc. The organic layer was washed with H2O and brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified on silica gel chromatography to afford (R)-tert-butyl 3-((R)-(3-fluorophenyl)(2-hydroxyethoxy)methyl)piperidine-1-carboxylate (11 g, 41%).

reactant | (R)-tert-butyl 3-((R)-(2-ethoxy-2-oxoethoxy)(3-fluorophenyl)methyl)piperidine-1-carboxylate | 75.9 mmol, 29.88 g | C(C)OC(CO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F)=O | C21H30FNO5
reactant | NaBH4 | 605.2 mmol, 23 g | [BH4-].[Na+]
solvent | MeOH | 300 mL | CO | CH4O
product | (R)-tert-butyl 3-((R)-(3-fluorophenyl)(2-hydroxyethoxy)methyl)piperidine-1-carboxylate | 11 g, 41% | FC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCO | C19H28FNO4
